US07018978B2
Preparation of N-Isopropyl-DL-Serine Methyl Ester (1)
To a slurry of 1 equivalent DL-serine methyl ester hydrochloride and 2 equivalents anhydrous sodium sulfate in methanol is added 1.05 equivalents sodium methoxide. The mixture is stirred at room temperature 5 minutes, after which 3 equivalents of acetone are added and the slurry is stirred overnight. The solids are removed by filtration and the excess acetone is removed from the filtrate under reduced pressure. Once the acetone is removed, platinum (IV) oxide (0.02 equivalents) is added. The slurry is stirred at room temperature 24 hours under a hydrogen atmosphere. The slurry is then filtered and the excess methanol is removed under reduced pressure. The residue is slurried in chloroform and filtered, and the filtrate is washed with dilute sodium bicarbonate, dried over anhydrous sodium sulfate, and filtered. Removal of chloroform under reduced pressure yields the desired product.

reactant | DL-serine methyl ester hydrochloride | 1 equivalent | Cl.COC(C(N)CO)=O
reactant | sodium sulfate | 2 equivalents | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium methoxide | 1.05 equivalents | C[O-].[Na+]
reactant | acetone | 3 equivalents | CC(=O)C | C3H6O
solvent | methanol | CO | CH4O
catalyst | platinum (IV) oxide | 0.02 equivalents | [Pt](=O)=O
product | N-Isopropyl-DL-Serine Methyl Ester | COC(C(NC(C)C)CO)=O | C7H15NO3
